US04082850
Reaction of ethyl 4-methoxy-o-toluate with N-bromosuccinimide as described in Example 1a provides ethyl α-bromo-4-methoxy-o-toluate as a colorless liquid.

reactant | ethyl 4-methoxy-o-toluate | COC=1C=C(C(=CC1)C)C(=O)OCC | C11H14O3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | ethyl α-bromo-4-methoxy-o-toluate | BrCC=1C(=CC(=CC1)OC)C(=O)OCC | C11H13BrO3
